US07645776B2
(R)-1-{2-[3-(4-Amino-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidin-1-yl}-2-phenoxy-ethanone
(R)-1-{2-[3-(4-Nitro-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidin-1-yl}-2-phenoxy-ethanone were dissolved in 100 ml MeOH. 50 ml sat. NH4Cl and Zn-powder were added. The suspension was briefly heated to reflux and stirred for 30 min. After filtration the MeOH was evaporated and the product isolated via extraction ethylacetate/water.

reactant | (R)-1-{2-[3-(4-Nitro-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidin-1-yl}-2-phenoxy-ethanone | [N+](=O)([O-])C1=CC=C(C=C1)C1=NOC(=N1)[C@@H]1N(CCCC1)C(COC1=CC=CC=C1)=O | C21H20N4O5
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Zn | [Zn] | Zn
product | (R)-1-{2-[3-(4-Amino-phenyl)-[1,2,4]oxadiazol-5-yl]-piperidin-1-yl}-2-phenoxy-ethanone | NC1=CC=C(C=C1)C1=NOC(=N1)[C@@H]1N(CCCC1)C(COC1=CC=CC=C1)=O | C21H22N4O3
